US05541228
4-(3-Methoxyphenyl)butylamine:
To a Parr bottle flushed with nitrogen was added ~1.0 g of Raney Nickel (50% suspension in H2O), ethanol (125 mL), ammonium hydroxide (30 mL), and a solution of 4-(3-methoxyphenyl)butyronitrile (8.49 g, 48.4 mmol) in ethanol (150 mL). The bottle was charged with hydrogen (60 psi) and rocked 3 d. The suspension was filtered through Celite, the cake rinsed with fresh ethanol (400 mL), and the combined filtrate concentrated in vacuo. The resulting suspension was treated with dichloromethane (200 mL) and water (200 mL), the layers separated, and the aqueous portion back-extracted with fresh dichloromethane (2×50 mL). The combined organic portions were washed with saturated sodium chloride solution (300 mL), dried (K2CO3), filtered, and concentrated in vacuo. Kugelrohr distillation (0.1 torr, 120° C.) provided the desired product as a clear liquid (6.77 g, 78%) which was identical spectroscopically to that previously reported. Venit, J. J.; DiPierro, M.; Magnus, P. J. Org. Chem. 1989, 54, 4298-4301. 1H NMR (CDCl3) δ 7.20 (t, J=8 Hz, 1H), 6.79-6.70 (m, 3H), 3.80 (s, 3H), 2.75-2.68 (m, 2H), 2.61 t J=8 Hz, 2H), 1.82-1.45 (m, 6H).

reactant | 4-(3-methoxyphenyl)butyronitrile | 48.4 mmol, 8.49 g | COC=1C=C(C=CC1)CCCC#N | C11H13NO
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 4-(3-Methoxyphenyl)butylamine | 6.77 g, 78% | COC=1C=C(C=CC1)CCCCN | C11H17NO
